US05536718
N-[4-(5H-Pyrrolo[2, 1-c][1, 4]benzodiazepin-10(11H)-yl -carbonyl)-3-chlorophenyl]-2-methyl-pyridine-3-carboxamide
A mixture of 1.1 g of 10, 11-dihydro-10-(4-amino-2-chlorobenzoyl)-5H-pyrrolo[2, 1-c][1, 4]benzodiazepine and 3 ml of N,N-diisopropylethylamine in 100 ml of methylene chloride is stirred while a solution of 600 mg of 2-methylpyridine-3-carbonyl chloride in 15 ml of methylene chloride is added slowly. The reaction mixture is stirred at room temperature for 2 hours. The reaction mixture is quenched with water and the organic layer washed with water, dried(MgSO4), filtered and evaporated in vacuo to a residue. The product is purified by column chromatography on silica gel by elution with 1:1 ethyl acetate:hexane to give the desired product as a pale yellow residue. M+ =456.

reactant | 10, 11-dihydro-10-(4-amino-2-chlorobenzoyl)-5H-pyrrolo[2, 1-c][1, 4]benzodiazepine | 1.1 g | NC1=CC(=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1)Cl | C19H16ClN3O
reactant | N,N-diisopropylethylamine | 3 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methylpyridine-3-carbonyl chloride | 600 mg | CC1=NC=CC=C1C(=O)Cl | C7H6ClNO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(5H-Pyrrolo[2, 1-c][1, 4]benzodiazepin-10(11H)-yl -carbonyl)-3-chlorophenyl]-2-methyl-pyridine-3-carboxamide | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=C(C=C(C=C1)NC(=O)C=1C(=NC=CC1)C)Cl | C26H21ClN4O2
